US07855216B2
Step 2: 4,5-Dichloropyridine-3-carbaldehyde oxime
A solution of 4,5-dichloropyridine-3-carbaldehyde (8.01 g, 45.51 mmol) in ethanol (50 ml) was added to a rapidly stirred solution of hydroxylamine hydrochloride (3.48 g, 50.06 mmol) in water (50 ml). The reaction was stirred at room temperature for 45 min then partitioned between ethyl acetate (100 ml) and water (100 ml). The aqueous layer was extracted with ethyl acetate (2×50 ml) and the combined organic layers were dried over magnesium sulfate before being concentrated in vacuo to afford the title compound as a white solid (8.3 g, 96%).

reactant | 4,5-dichloropyridine-3-carbaldehyde | 45.51 mmol, 8.01 g | ClC1=C(C=NC=C1Cl)C=O | C6H3Cl2NO
reactant | hydroxylamine hydrochloride | 50.06 mmol, 3.48 g | Cl.NO
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | water | 50 ml | O | H2O
product | 4,5-Dichloropyridine-3-carbaldehyde oxime | 8.3 g, 96% | ClC1=C(C=NC=C1Cl)C=NO | C6H4Cl2N2O
